US09107414B2
Synthesis of 1-(2-methyl-3-(methylsulfonyl)-4-trifluoromethylphenyl)-2-(1-methyl-1,2,4-triazol-5-yl)-1-oxoethane
683 mg (8.22 mmol) of 1-methyl-1,2,4-triazole in 20 ml of THF are admixed under argon at −78° C. with 3.3 ml (8.22 mmol) of butyllithium (2.5M, hexane). After 30 min, 1.22 g (8.63 mmol) of methyl iodide, dissolved in 2 ml of THF, are added, the cooling bath is removed and the mixture is left to reach RT. The mixture is cooled again to −78° C. and admixed with 3.3 ml (8.22 mmol) of butyllithium (2.5M, hexane). After 15 min, 1.22 g (4.12 mmol) of methyl 2-methyl-3-(methylsulfonyl)-4-trifluoromethylbenzoate are added and the mixture is left to thaw overnight. The mixture is quenched with ammonium chloride solution and extracted with EE. The organic phase is washed with NaHCO3 solution and NaCl solution, dried, evaporated and purified by means of RP-HPLC (acetonitrile/water). Yield 255 mg (17%). 1H NMR, CDCl3, 400 MHz: 7.90 (s, 1H), 7.82 (d, 1H), 7.72 (d, 1H), 5.57 (s, 1H), 3.85 (s, 3H), 3.27 (s, 3H), 2.84 (s, 3H).

reactant | 1-methyl-1,2,4-triazole | 8.22 mmol, 683 mg | CN1N=CN=C1 | C3H5N3
reactant | butyllithium | 8.22 mmol, 2.5M, 3.3 ml | C(CCC)[Li]
reactant | methyl iodide | 8.63 mmol, 1.22 g | CI | CH3I
reactant | butyllithium | 8.22 mmol, 2.5M, 3.3 ml | C(CCC)[Li]
reactant | methyl 2-methyl-3-(methylsulfonyl)-4-trifluoromethylbenzoate | 4.12 mmol, 1.22 g | CC1=C(C(=O)OC)C=CC(=C1S(=O)(=O)C)C(F)(F)F | C11H11F3O4S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(2-methyl-3-(methylsulfonyl)-4-trifluoromethylphenyl)-2-(1-methyl-1,2,4-triazol-5-yl)-1-oxoethane | CC1=C(C=CC(=C1S(=O)(=O)C)C(F)(F)F)C(CC1=NC=NN1C)=O | C14H14F3N3O3S
